US05298033
7.5 g of 4-Aminosalicyclic acid was dissolved in 300 ml of acetonitrile at about 60° C. 12 ml of 3-chloropropionyl chloride was added dropwise and followed by addition of 5 ml of pyridine, the resulting mixture was refluxed for three hours. The mixture, which became clear after approximately 20 minutes of refluxing, was cooled and evaporated to dryness under reduced pressure. A gummy oil was dissolved in isopropanol-water and refrigerated for several days. A small amount of solid thus produced was filtered off. The filtrate was evaporated to dryness and approximately 16.8 g of crude 4-(3-chloropropionamido) salicyclic acid was produced. A lens treated with this compound was found to be clear with excellent UV blockage up to about 320 nm.

reactant | 4-Aminosalicyclic acid | 7.5 g | NC=1C=C(C(C(=O)O)=CC1)O | C7H7NO3
reactant | 3-chloropropionyl chloride | 12 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 4-(3-chloropropionamido) salicyclic acid | approximately 16.8 g | ClCCC(=O)NC=1C=C(C(C(=O)O)=CC1)O | C10H10ClNO4
